Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo female with a history of ovarian cancer who is admitted
with fevers and blurry vision. The patient states she has been
feeling very fatigued for a few days. She then had chemotherapy
yesterday and afterward felt even more fatigued. She also
developed a fever to 101.1 which was associated with blurry
vision. She had some shortness of breath last night and has had
some intermittent nausea. She states she has had all of these
symptoms including the fever, blurry vision, weakness, shortness
of breath, and nausea with prior cycles of chemotherapy. She
states she has gotten blurry vision with fevers in the past but
this may have been a bit worse. She denies any current blurry
vision. She denies any diarrhea, dysuria, or rashes. Of note she
has been on clindamycin for a port site infection and her port
was not used for her last chemotherapy infusion.
In he ED her vital signs were unremarkable. Labwork was notable
for a leukocytosis of 14.4, AST of 142, ALT 208, and Cr of 1.4. 
A
head CT and chest x-ray were unremarkable. A rapid flu test was
negative as was a urinalysis. She was given IV fluids, vanc, and
cefepime.

 
Past Medical History:
- Partial hysterectomy age ___ for fibroids
- Right lumpectomy age ___ benign per report
- Lipids
- GERD and hiatal hernia
- Constipation
- Osteoporosis
 
Social History:
___
Family History:
Extensive cancer history in the family including:
- P-aunt colon cancer
- M-aunt ovarian ca
- M-aunt pancreatic ca
- M-cousin- ovarian cancer-diagnosed at ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General:  NAD
VITAL SIGNS: Temp: 98.1 BP: 138/79 HR: 71 RR: 18 O2 sat: 93% RA 
HEENT:  MMM, no OP lesions
CV:  RR, NL S1S2
PULM:  CTAB
ABD:  Soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis
SKIN:  No rashes or skin breakdown
NEURO: Alert and oriented, no focal deficits.

DISCHARGE PHYSICAL EXAM:
98.1 120/81 90 18 95% RA 
General: NAD, sitting up in bed
HEENT: AT/NC, EOMI, MMM, no mucositis, no JVD
CV: RRR, s1+s2 normal, no m/g/r appreciated
PULM: CTAB
ABD: +BS, non-tender, non-distended, no organomegaly appreciated
EXT: +pulses, warm, no edema
NEURO: No motor/sensory deficits elicited, CN II-XII intact, no 
ataxia
 
Pertinent Results:
ADMISSION LABS:
___ 01:00PM URINE  HOURS-RANDOM
___ 01:00PM URINE  UHOLD-HOLD
___ 01:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:00PM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 01:00PM URINE  RBC-3* WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 01:00PM URINE  MUCOUS-RARE*
___ 10:29AM   LACTATE-2.8*
___ 10:00AM   GLUCOSE-115* UREA N-21* CREAT-1.4* SODIUM-136 
POTASSIUM-4.4 CHLORIDE-95* TOTAL CO2-18* ANION GAP-23*
___ 10:00AM   ALT(SGPT)-208* AST(SGOT)-142* ALK PHOS-141* 
TOT BILI-0.7
___ 10:00AM   LIPASE-29
___ 10:00AM   ALBUMIN-4.1 CALCIUM-9.1 PHOSPHATE-4.3 
MAGNESIUM-1.8
___ 10:00AM   ALBUMIN-4.1 CALCIUM-9.1 PHOSPHATE-4.3 
MAGNESIUM-1.8
___ 10:00AM   NEUTS-93.1* LYMPHS-1.5* MONOS-4.4* EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-13.37* AbsLymp-0.21* AbsMono-0.63 
AbsEos-0.01* AbsBaso-0.03
___ 10:00AM   PLT COUNT-258
___ 10:00AM   ___ PTT-26.6 ___
___ 09:55AM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 08:20AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:20AM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 08:20AM URINE  RBC-1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 08:15AM   UREA N-13 CREAT-0.8 SODIUM-141 POTASSIUM-5.1 
CHLORIDE-100 TOTAL CO2-26 ANION GAP-15
___ 08:15AM   estGFR-Using this
___ 08:15AM   ALT(SGPT)-88* AST(SGOT)-47* ALK PHOS-144* TOT 
BILI-0.2
___ 08:15AM   CALCIUM-9.9 PHOSPHATE-3.9 MAGNESIUM-2.1
___ 08:15AM   CA125-24
___ 08:15AM   WBC-5.1 RBC-4.21 HGB-12.6 HCT-37.8 MCV-90 
MCH-29.9 MCHC-33.3 RDW-13.4 RDWSD-41.6
___ 08:15AM   NEUTS-46.0 ___ MONOS-15.8* EOS-2.8 
BASOS-0.4 IM ___ AbsNeut-2.33 AbsLymp-1.74 AbsMono-0.80 
AbsEos-0.14 AbsBaso-0.02
___ 08:15AM   PLT COUNT-275

DISCHARGE LABS:
___ 06:50AM BLOOD WBC-10.5* RBC-3.70* Hgb-11.1* Hct-33.3* 
MCV-90 MCH-30.0 MCHC-33.3 RDW-14.2 RDWSD-45.0 Plt ___
___ 10:00AM BLOOD Neuts-93.1* Lymphs-1.5* Monos-4.4* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-13.37* AbsLymp-0.21* 
AbsMono-0.63 AbsEos-0.01* AbsBaso-0.03
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-88 UreaN-12 Creat-0.8 Na-138 
K-4.6 Cl-102 HCO3-23 AnGap-13
___ 06:50AM BLOOD ALT-113* AST-54* AlkPhos-113* TotBili-0.6
___ 06:50AM BLOOD Mg-1.9

IMAGING:
___ NCHCT:
No acute intracranial process.  MRI would be more sensitive for 
detection of intracranial metastases. 

___ CXR:
No focal consolidation.

MICRO:
___ 1:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
___ Blood Cx x2: PND
 
Brief Hospital Course:
___ with PMHx of recurrant ovarian cancer, on C2 ___ 
(___) who presented with fever and blurry vision after 
chemotherapy administration. 

# Fever. Admitted with fever and blurry vision. ROS was notable 
for some non specific fatigue and nausea but no other localizing 
symptoms. She was started on IV Vancomycin and Cefepime 
overnight to cover possible infections. Home clindamycin, which 
was being used to treat port site infection, was held while on 
Cefepime. Port site appeared clinically improved to prior and 
without signs of active infection. Inpatient infectious work up 
was negative. She did not have additional fevers. Antibiotics 
were discontinued and she was discharged to home to complete 
course of PO clindamycin with close oncology follow up. Etiology 
of fever was thought possibly related to gemcitabine 
administration. 

# Blurry vision. Patient presented with blurry vision, 
concurrent with fever. Blurry vision gradually improved without 
intervention. CT Head was negative for acute process or 
metastatic disease. Neurologic examination was non focal. 
Reassurance was provided and she will continue to monitor for 
symptom recurrence in the outpatient basis. 

# ___. Presented with Cr 1.4 above baseline normal value. She 
was given IVF and Cr normalized to 0.8 on the day of discharge 
suggesting pre-renal state on admission. 

# Transaminitis. Noted elevated transaminases on admission above 
baseline values. LFTs downtrended on discharge. Statin was held. 


# Port site skin infection. Admitted on PO clindamycin which was 
initially held while on Cefepime. Port site appeared clinically 
improved. Site was evaluated by ___ inpatient. She 
will continue PO clindamycin on discharge to complete prescribed 
course of treatment. 

CHRONIC ISSUES 
===============

# Hyperlipidemia. Held home simvastatin on admission given 
transaminitis. Held on discharge and recommend repeating LFTs as 
outpatient to ensure normalization prior to restarting statin. 

# GERD. Continued home protonix.

TRANSITIONAL ISSUES 
===================
- Recommend repeating LFTs in outpatient follow up to ensure 
normalization. Holding statin, consider restarting based on 
outpatient LFTs
- Continue to clinically monitor port site for s/s worsening 
infection 

Name of ___ care proxy: ___ 
___: daughter 
Phone number: ___ 
CODE: FULL 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clindamycin 300 mg PO Q8H  *Research Pharmacy Approval 
Required* Research protocol ___
2. LORazepam 0.5-1 mg PO Q8H:PRN Nausea, Anxiety, Insomnia  
*Research Pharmacy Approval Required* Research protocol ___
3. Ondansetron 8 mg PO Q8H:PRN Nausea 
4. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 
 *Research Pharmacy Approval Required* Research protocol ___
5. Pantoprazole 40 mg PO Q24H  *Research Pharmacy Approval 
Required* Research protocol ___
6. Prochlorperazine 10 mg PO Q6H:PRN Nausea  *Research Pharmacy 
Approval Required* Research protocol ___
7. Simvastatin 40 mg PO QPM  *Research Pharmacy Approval 
Required* Research protocol ___
8. TraZODone 75 mg PO QHS:PRN Insomnia  *Research Pharmacy 
Approval Required* Research protocol ___
9. Bisacodyl 5 mg PO QHS:PRN Constipation  *Research Pharmacy 
Approval Required* Research protocol ___
10. Senna 8.6 mg PO QHS:PRN Constipation  *Research Pharmacy 
Approval Required* Research protocol ___

 
Discharge Medications:
1.  Bisacodyl 5 mg PO QHS:PRN Constipation  *Research Pharmacy 
Approval Required* Research protocol ___ 
2.  Clindamycin 300 mg PO Q8H  *Research Pharmacy Approval 
Required* Research protocol ___ 
3.  LORazepam 0.5-1 mg PO Q8H:PRN Nausea, Anxiety, Insomnia  
*Research Pharmacy Approval Required* Research protocol ___ 
4.  Ondansetron 8 mg PO Q8H:PRN Nausea  *Research Pharmacy 
Approval Required* Research protocol ___ 
5.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  
6.  Pantoprazole 40 mg PO Q24H  *Research Pharmacy Approval 
Required* Research protocol ___ 
7.  Prochlorperazine 10 mg PO Q6H:PRN Nausea  *Research Pharmacy 
Approval Required* Research protocol ___ 
8.  Senna 8.6 mg PO QHS:PRN Constipation  *Research Pharmacy 
Approval Required* Research protocol ___ 
9.  TraZODone 75 mg PO QHS:PRN Insomnia  *Research Pharmacy 
Approval Required* Research protocol ___ 
10. HELD- Simvastatin 40 mg PO QPM  *Research Pharmacy Approval 
Required* Research protocol ___ This medication was held. Do 
not restart Simvastatin until you have your liver function 
checked again in clinic 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis 
Ovarian Cancer

Secondary Diagnosis 
Blurry Vision 
Acute kidney injury
Transaminitis 
Port site infection 
Hyperlipidemia 
GERD 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you during your 
hospitalization. Briefly, you were admitted with fever and 
blurry vision after receiving your chemotherapy. You were 
started on IV antibiotics and given IV fluids. You improved. 
There were no signs of infection and IV antibiotics were 
discontinued. You should continue taking your clindamycin pills 
until they are finished. 

Please monitor for signs of fever as an outpatient and don't 
hesitate to call Dr. ___ office with any concerns. 

We wish you the best, 

Your ___ Treatment Team  
 
Followup Instructions:
___